US04308201
Measurement of the activity of thrombin by use of Nα-tosyl-L-arginine ethyl ester hydrochloride as substrate
To 0.1 ml of thrombin were added 0.3 ml of Nα-tosyl-L-arginine methyl ester hydrochloride solution (10 micromoles/0.4 ml of 5% DMSO) and 0.6 ml of phosphate buffer solution (pH 7.4), and the resulting mixture was subjected to incubation at 37° C. for 30 min, after which 1.5 ml of a hydroxylamine solution (a mixture of equal amounts of 2 M NH2OH hydrochloride and 3.5 M NaOH) was added thereto. The resulting mixture was allowed to stand at room temperature for 15 min. Thereto were added 1 ml of 18% trichloroacetic acid solution, 1 ml of 4 N hydrochloric acid, and 1 ml of 10% ferric chloride solution. The resulting mixture was thoroughly stirred and then centrifuged at 3,000 r.p.m. for 10 min. The color thus developed of the supernatant was measured as absorbance (530 l nm) by means of a spectrophotometer. The value obtained corresponds to the amount of the substrate remaining unhydrolyzed with thrombin, and therefore, and activity of the enzyme corresponds to the difference between the value obtained when no enzyme was used (control) and the value obtained after the enzyme reaction.

reactant | Nα-tosyl-L-arginine methyl ester hydrochloride | 10 micromoles, 0.3 ml | Cl.COC([C@@H](NS(=O)(=O)C1=CC=C(C)C=C1)CCCNC(N)=N)=O
reactant | phosphate | 0.6 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
reactant | hydroxylamine | 1.5 ml | NO | H3NO
reactant | NH2OH hydrochloride | 2 M | NO.Cl
reactant | NaOH | 3.5 M | [OH-].[Na+]
reactant | trichloroacetic acid | 1 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | hydrochloric acid | 4 N, 1 ml | Cl | ClH
product | Nα-tosyl-L-arginine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](NS(=O)(=O)C1=CC=C(C)C=C1)CCCNC(N)=N)=O | InChI=1S/C15H24N4O4S.ClH/c1-3-23-14(20)13(5-4-10-18-15(16)17)19-24(21,22)12-8-6-11(2)7-9-12;/h6-9,13,19H,3-5,10H2,1-2H3,(H4,16,17,18);1H/t13-;/m0./s1
